US03950375
Preparation of Diisopropylperoxydicarbonate (IPP)
Following the Example II procedure, IPP is prepared at the rate of 50 pph in an average assay of greater than 98% from 85 pph of isopropyl chloroformate, 28.5 pph of 50% H2O2, 160 pph of 20% NaOH and 50 pph of saturated NaCl solution.

reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | H2O2 | OO | H2O2
reactant | NaOH | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
product | Diisopropylperoxydicarbonate | C(C)(C)OC(=O)OOC(=O)OC(C)C | C8H14O6
